* C:\Users\13372\Documents\GitHub\TNCMCU\Schematic\Ltspice\Rx_circuit\Rx_circuit1.asc
Q1 Vout N003 N004 0 2N2222
R1 N002 Vout 22k
R2 N004 0 13k
R3 N003 0 10k
R4 N002 N003 10k
C2 N004 0 1µ
C1 N003 Vin 1µ
V1 N001 0 3.3
B§V2 Vin Vreg V = (white(2e6*time)/25)
R8 Vfilter Vout 20k
C4 Vfilter 0 .82n
V3 Vreg 0 SINE(0 25m 2200)
R5 N001 N002 1k
R6 N002 0 25k
.model NPN NPN
.model PNP PNP
.lib C:\Users\13372\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 100m
.backanno
.end
